US06350762B1
1) Synthesis of t-butyl phenylcarbamoylmethylcarbamate
1.27 g (1.19 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 681 mg (5.04 mmol) of 1-hydroxybenzotriazole and 0.95 ml (6.82 mmol) of triethylamine were added to 1.15 g (6.56 mmol) of t-butoxycarbonylglycine in 20 ml of dichloromethane under cooling in an ice bath, and they were stirred at room temperature overnight. Ethyl acetate was added to the reaction mixture, and the product was washed with 0.1 N hydrochloric acid and then with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.19 mmol, 1.27 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 5.04 mmol, 681 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 6.82 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
reactant | t-butoxycarbonylglycine | 6.56 mmol, 1.15 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl phenylcarbamoylmethylcarbamate | C1(=CC=CC=C1)NC(=O)CNC(OC(C)(C)C)=O | C13H18N2O3
